US08871738B2
To a solution of 2-bromo-4-(hepta-1,6-dien-4-yl)-1-methoxybenzene (2.0 g, 7.11 mmol) in DCM (36 mL) was added Zhan catalyst (47 mg). The mixture was flushed with N2 and refluxed at 45° C. overnight. The reaction mixture was concentrated and the residue was purified by silica gel chromatography, eluting with 10% of EtOAc/isohexane to give 2-bromo-4-(cyclopent-3-en-1-yl)-1-methoxybenzene (1.9 g) as a colorless oil. 1H NMR (500 MHz, CDCl3:) δ 7.46 (s, 1H), 7.18 (d, 1H), 6.83 (d, 1H), 5.80 (s, 2H), 3.91 (s, 3H), 3.40 (m, 1H), 2.81 (m, 2H), 2.40 (m, 2H).

reactant | 2-bromo-4-(hepta-1,6-dien-4-yl)-1-methoxybenzene | 7.11 mmol, 2.0 g | BrC1=C(C=CC(=C1)C(CC=C)CC=C)OC | C14H17BrO
solvent | DCM | 36 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-(cyclopent-3-en-1-yl)-1-methoxybenzene | 1.9 g | BrC1=C(C=CC(=C1)C1CC=CC1)OC | C12H13BrO
